simulator lang=spectre
global 0

// Supply
Vdd (vdd 0) vsource dc=0.9
Vss (vss 0) vsource dc=0.0

// Input sweep: ramp from 0.01V to 0.89V over 800ns
Vin (vin 0) vsource type=pwl wave=[0 0.01 800n 0.89]

// Clock: 10MHz, 50% duty, fast edges to sample all 8 codes
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=100n rise=1n fall=1n width=48n

// DUT instantiation: vdd, vss, vin, clk, dout2, dout1, dout0
XDUT (vdd vss vin clk dout2 dout1 dout0) flash_adc_3b

// Transient analysis
tran tran stop=820n maxstep=2n

// Save required scalar names
save vin clk dout2 dout1 dout0

ahdl_include "flash_adc_3b.va"
